US04380641
1-(2-chloro-6-fluorobenzoyl)-3-(2-methyl-4-carbethoxy-5-oxazolyl)urea
To 0.6 g. 2-methyl-4-carbethoxy-5-aminooxazole dissolved in 25 ml. acetonitrile was added 0.8 2-chloro-6-fluorobenzoylisocyanate under nitrogen at about 25° C. The reaction mixture was stirred at 25° C. for 12 hours and the solid was collected. Yield 0.7 g.

reactant | 2-methyl-4-carbethoxy-5-aminooxazole | CC=1OC(=C(N1)C(=O)OCC)N | C7H10N2O3
reactant | 2-chloro-6-fluorobenzoylisocyanate | ClC1=C(C(=O)N=C=O)C(=CC=C1)F | C8H3ClFNO2
solvent | acetonitrile | C(C)#N | C2H3N
product | 1-(2-chloro-6-fluorobenzoyl)-3-(2-methyl-4-carbethoxy-5-oxazolyl)urea | ClC1=C(C(=O)NC(=O)NC2=C(N=C(O2)C)C(=O)OCC)C(=CC=C1)F | C15H13ClFN3O5
